US08476297B2
(R)-1-(1-(4-(Trifluoromethyl)phenyl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone
To a solution of (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (100 mg, 361 μmol, example 30 (step 1) in DCM (2 mL) was added DIEA (62.8 μL, 361 μmol) and acetic acid anhydride (34.0 μL, 361 mop. The resulting mixture was then stirred at RT for 16 h. Then, H2O (1 mL) was added and the mixture was extracted with DCM (2×5 mL). The combined organic extracts were dried over MgSO4 and concentrated. The residue was purified by silica gel flash column chromatography (0%-100% EtOAc/hexane) to give the title compound as a white solid. MS (ESI, positive ion) m/z: 320 (M+H).

reactant | (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | FC(C1=CC=C(C=C1)[C@H]1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | DIEA | 361 μmol, 62.8 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | H2O | 1 mL | O | H2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(1-(4-(Trifluoromethyl)phenyl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone | FC(C1=CC=C(C=C1)[C@H]1N(CCC2=CC=CC=C12)C(C)=O)(F)F | C18H16F3NO
